US04002769
4,8-Dimethyl-1-(p-Isopropylphenyl)-non-1-ene
To a stirred solution of 16 g (0.7 g at) of sodium in 600 ml of liquid ammonia was added dropwise a solution of 93 g (0.34 mol.) of 4,8-dimethyl-1-(p-isopropylphenyl)nona-1,7-diene in 125 ml of anhydrous tetrahydrofuran. Total addition time was one hour. The excess sodium was destroyed by the cautious addition of methanol. Then 200 ml of hexane were added and the ammonia was allowed to evaporate. To the residue a saturated solution of NH4Cl was added cautiously. The organic layer was separated, and the aqueous layer was diluted with water and extracted twice with hexane. The combined hexane layers were washed with water, dilute HCl, brine and then dried. Evaporation of the hexane and distillation of the residue yielded the title product. Yield was 88 g (94%), bp 130°-135° C/0.1 mm. nD25 = 1.4938.

reactant | sodium | 16 g | [Na] | Na
reactant | ammonia | N | H3N
reactant | 4,8-dimethyl-1-(p-isopropylphenyl)nona-1,7-diene | 0.34 mol, 93 g | CC(CC=CC1=CC=C(C=C1)C(C)C)CCC=C(C)C | C20H30
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 4,8-Dimethyl-1-(p-Isopropylphenyl)-non-1-ene | CC(CC=CC1=CC=C(C=C1)C(C)C)CCCC(C)C | C20H32
